US07084164B2
2-{3-[N-(2-Methoxyethyl)-N-methylamino]-5-(6-phenylpyridin-3-yl)-4H-1,2,4-triazol-4-yl}benzonitrile
[4-(2-Bromophenyl)-5-(6-phenylpyridin-3-yl)-4H-1,2,4-triazol-3-yl]-N-(2-methoxyethyl)-N-methylamine (436 mg) prepared in the Example 7 was dissolved in N-methyl-2-pyrrolidone (5 ml), followed by addition of zinc cyanide (121 mg), calcium hydroxide (76 mg) and tetrakistriphenylphosphine palladium (326 mg), and stirred at 180° C. for 3 hours. After the reaction solution was cooled to ambient temperature, chloroform was added to the solution, from which insoluble materials were filtered off. The filtrate was washed with saturated aqueous sodium hydrogen carbonate solution, and the organic layer was dried over anhydrous magnesium sulfate. After the solvent was evaporated under reduced pressure, the resulting solid was recrystallized from ethyl acetate, to afford the entitled compound as white crystal (242 mg, 63%). The physico-chemical values are as follows.

reactant | [4-(2-Bromophenyl)-5-(6-phenylpyridin-3-yl)-4H-1,2,4-triazol-3-yl]-N-(2-methoxyethyl)-N-methylamine | 436 mg | BrC1=C(C=CC=C1)N1C(=NN=C1C=1C=NC(=CC1)C1=CC=CC=C1)N(C)CCOC | C23H22BrN5O
reactant | calcium hydroxide | 76 mg | [OH-].[Ca+2].[OH-]
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | N-methyl-2-pyrrolidone | 5 ml | CN1C(CCC1)=O | C5H9NO
catalyst | zinc cyanide | 121 mg | [C-]#N.[Zn+2].[C-]#N
product | 2-{3-[N-(2-Methoxyethyl)-N-methylamino]-5-(6-phenylpyridin-3-yl)-4H-1,2,4-triazol-4-yl}benzonitrile | 242 mg, 63% | COCCN(C)C1=NN=C(N1C1=C(C#N)C=CC=C1)C=1C=NC(=CC1)C1=CC=CC=C1 | C24H22N6O
